US07232821B2
5-{2-[5-Chloro-2-(hydroxy)-phenyl]cyclopent-1-enyl}-nicotinic acid ethyl ester
5-{2-[5-Chloro-2-(methoxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid ethyl ester (1.500 g, 4.20 mmol) in dry dichloromethane (20 mL) was cooled to −75° C. Boron tribromide, 1M solution in DCM, (40 mL, 40.0 mmol) was added and the reaction mixture stirred at −75° C. for a further hour. The temperature of the reaction was then allowed to rise to −15° C. and kept at −15° C. for a further 2 hours, and was then quenched in ice/water (50 g/50 mL). More dichloromethane (60 mL) was added and the resulting mixture was stirred vigorously for ˜2 hrs. The layers were separated and the organic layer was washed with saturated sodium bicarbonate, dried (magnesium sulphate), filtered and reduced to an oil. The oil was then purified by chromatography to give the title compound (0.800 g, 60%).

reactant | 5-{2-[5-Chloro-2-(methoxy)-phenyl]-cyclopent-1-enyl}-nicotinic acid ethyl ester | 4.20 mmol, 1.500 g | C(C)OC(C1=CN=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)OC)=O | C20H20ClNO3
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DCM | 40.0 mmol, 40 mL | C(Cl)Cl | CH2Cl2
product | 5-{2-[5-Chloro-2-(hydroxy)-phenyl]cyclopent-1-enyl}-nicotinic acid ethyl ester | 0.800 g, 60% | C(C)OC(C1=CN=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)O)=O | C19H18ClNO3
